US07625914B2
13 ml (200 mmol) of thionyl chloride are added dropwise, at 0° C., to a solution of 9 g (70 mmol) of 3-thiophenecarboxylic acid and 86 mg (0.7 mmol) of 4-dimethylaminopyridine in 100 ml of ethanol. The reaction medium is stirred from 0° C. to room temperature over 48 hours and then evaporated to dryness. The residue obtained is purified by chromatography on a column of silica eluted with a 1/1 heptane/dichloromethane mixture. 10 g (91%) of ethyl thiophene-3-carboxylate are obtained.

reactant | thionyl chloride | 200 mmol, 13 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-thiophenecarboxylic acid | 70 mmol, 9 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | 0.7 mmol, 86 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl thiophene-3-carboxylate | 10 g, 91% | S1C=C(C=C1)C(=O)OCC | C7H8O2S
